US09145393B2
Step 5: (R)-5-(Piperidin-3-ylamino)-[3,4′-bipyridin]-6(1H)-one hydrochloride
A solution of HCl in dioxane (20 mL) was added to (R)-tert-butyl 3-((6-methoxy-[3,4′-bipyridin]-5-yl)amino)piperidine-1-carboxylate (1.00 g, 2.60 mmol) in ethanol (10 mL). The mixture was heated at 80° C. for 12 h in a sealed tube. After cooling to room temperature the mixture was concentrated and the crude residue was triturated with diethyl ether to afford 0.60 g of the desired compound: 1H NMR (300 MHz, DMSO-d6) 12.29 (br s, 1H), 9.30-9.50 (m, 1H), 8.90-9.10 (m, 1H), 8.76 (br s 2H), 8.32 (br s, 2H), 7.74 (s, 1H), 7.04 (s, 1H), 5.65-5.90 (m, 1H), 3.20-4.10 (m, 5H), 2.60-2.90 (m, 1H), 1.60-2.05 (m, 3H); MS (ES) m/z 271 (M+H).

reactant | HCl | Cl | ClH
reactant | (R)-tert-butyl 3-((6-methoxy-[3,4′-bipyridin]-5-yl)amino)piperidine-1-carboxylate | 2.60 mmol, 1.00 g | COC1=C(C=C(C=N1)C1=CC=NC=C1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C21H28N4O3
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (R)-5-(Piperidin-3-ylamino)-[3,4′-bipyridin]-6(1H)-one hydrochloride | 0.60 g | Cl.N1C[C@@H](CCC1)NC1=CC(=CNC1=O)C1=CC=NC=C1 | InChI=1S/C15H18N4O.ClH/c20-15-14(19-13-2-1-5-17-10-13)8-12(9-18-15)11-3-6-16-7-4-11;/h3-4,6-9,13,17,19H,1-2,5,10H2,(H,18,20);1H/t13-;/m1./s1
